US05348955
Step A: Dipentylcarbamoyl chloride
A mixture of 7.86 g. (50.0 mmole) of dipentylamine, 18.05 ml (50.0 mmole) of 2.77M NaOH solution and 60 ml of toluene was vigorously stirred at -7° to -5° C., and 60 ml (115.8 mmole) of 1.93 M phosgene in toluene was added dropwise over 1 hour. After stirring an additional 30 min., the cold mixture was separated and the toluene layer was dried over solid NaCl. After filtering, nitrogen was bubbled through the solution for 1 hour and the solution was concentrated in vacuo to 10.5 g. (95%) of light yellow oil.

reactant | dipentylamine | 50.0 mmole | C(CCCC)NCCCCC | C10H23N
reactant | NaOH | 50.0 mmole, 2.77M, 18.05 ml | [OH-].[Na+]
reactant | phosgene | 115.8 mmole, 1.93 M, 60 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | Dipentylcarbamoyl chloride | C(CCCC)N(C(=O)Cl)CCCCC | C11H22ClNO
